US04404207
A mixture of 1.4 g (5 mmole) of 8-cyano-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 0.75 g (11 mmole) of sodium azide, 0.6 g (11 mmole) of ammonium chloride and 50 ml of N,N-dimethylformamide was heated at 120° C. for three days in a sealed vessel followed by decantation into 100 ml of water. To this mixture was added 2 ml of glacial acetic acid, and the mixture was cooled. The solid was separated by filtration and recrystallized from aqueous N,N-dimethylformamide to provide white needles of 6,7-dihydro-5-methyl-1-oxo-8-(5-tetrazolyl)-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, m.p. 270° C. (dec.). Analysis: Calculated for C15H13N5O3 : %C, 57.9; %H, 4.2; %N, 22.5; Found: %C 57.8; %H, 4.0; %N, 22.7. The structural assignment was confirmed by infrared and nuclear magnetic resonance spectral analyses.

reactant | 8-cyano-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 5 mmole, 1.4 g | C(#N)C1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C15H12N2O3
reactant | sodium azide | 11 mmole, 0.75 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 11 mmole, 0.6 g | [Cl-].[NH4+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 6,7-dihydro-5-methyl-1-oxo-8-(5-tetrazolyl)-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | CC1CCC2=C3C(C(C(=CN13)C(=O)O)=O)=CC=C2C2=NN=NN2 | C15H13N5O3
